US08053574B2
Step 2: (2-Ethyl-2H-tetrazol-5-ylmethyl)-carbamic acid tert-butyl ester
(2H-Tetrazol-5-ylmethyl)-carbamic acid tert-butyl ester (0.9 g, 4.5 mmol) is dissolved in dry DMF, NaH (60% dispersed in mineral oil) (0.18 g, 4.5 mmol) is added and the reaction mixture is stirred at room temperature for 5 minutes before ethyl iodide (0.35 ml, 4.5 mmol) is added. The reaction mixture is stirred overnight at room temperature and partitioned between EtOAc and water. The organic phase is dried over MgSO4, filtered and concentrated in vacuo to afford an oil. Purification by flash chromatography on silica eluting with 2:1 iso-hexanes/EtOAc affords the title compound.

reactant | (2H-Tetrazol-5-ylmethyl)-carbamic acid tert-butyl ester | 4.5 mmol, 0.9 g | C(C)(C)(C)OC(NCC=1N=NNN1)=O | C7H13N5O2
reactant | NaH | 4.5 mmol, 0.18 g | [H-].[Na+]
reactant | ethyl iodide | 4.5 mmol, 0.35 ml | C(C)I | C2H5I
solvent | DMF | CN(C)C=O | C3H7NO
product | (2-Ethyl-2H-tetrazol-5-ylmethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC=1N=NN(N1)CC)=O | C9H17N5O2
